US06740371B1
Using 3,5-dinitrobenzoyl chloride (74.3 g, 322.5 mmol) and hexyl alcohol (33.0 g, 323.6 mmol), n-hexyl-3,5-dinitrobenzoate was obtained (81.1 g, yield: 85%) in the same manner as in Example 1.

reactant | 3,5-dinitrobenzoyl chloride | 322.5 mmol, 74.3 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C7H3ClN2O5
reactant | hexyl alcohol | 323.6 mmol, 33.0 g | C(CCCCC)O | C6H14O
product | n-hexyl-3,5-dinitrobenzoate | yield: 85% | C(CCCCC)OC(C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C13H16N2O6
